### PR TITLE
feat: prove unitary conjugation preserves self-adjointness

### PR DESCRIPTION
**Pull request by adambornemann-glitch**
Added to `Physlib/QuantumMechanics/Operators/SpectralTheory/SelfAdjoint.lean`, building on the `unitaryConj` API from #1421:

Section A (resolvent set):
- `IsSelfAdjoint.sub_smul_surjective` : a self-adjoint `T` has `T - z • 1` surjective for every non-real `z` (in particular `T ± i • 1` are onto) off the real axis `z` lies in the resolvent set, so `T - z • 1` has full range

New section C (unitary conjugation):
- `LinearPMap.unitaryConj_isSelfAdjoint` : if `A` is self-adjoint on `H` and `u : H ≃ₗᵢ[ℂ] H'` is unitary, then `u A u⁻¹` is self-adjoint on `H'`.

### CODE REVIEW

File: Physlib/QuantumMechanics/Operators/SpectralTheory/SelfAdjoint.lean [hunk 1]
```diff
@@ -59,6 +63,18 @@ lemma resolventSet_eq_regularityDomain : ρ T = T.regularityDomain := by
   rw [isSelfAdjoint_def.mp hT, (isClosed hT).closure_eq, h_ker'] at h_orthog
   simp [← h_orthog]
 
+/-- A self-adjoint operator has `T - z • 1` surjective for every non-real `z`: off the real
+axis a self-adjoint operator has `z` in its resolvent set, so `T - z • 1` has full range. -/
+lemma sub_smul_surjective {z : ℂ} (hz : z.im ≠ 0) (φ : H) :
+    ∃ ψ : T.domain, T ψ - z • (ψ : H) = φ := by
+  have hz_res : z ∈ ρ T := by
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/Operators/SpectralTheory/SelfAdjoint.lean]: May be worth making this the lemma rather then the exists statement

Comment (adambornemann-glitch) [reply Physlib/QuantumMechanics/Operators/SpectralTheory/SelfAdjoint.lean]: Good call, that also improves unitaryConj_isSelfAdjoint's readability.

Comment (jstoobysmith) [reply Physlib/QuantumMechanics/Operators/SpectralTheory/SelfAdjoint.lean]: I actually mean meaning the lemma here: 

``` 
lemma mem_resolventSet_of_im_zero  {z : ℂ} (hz : z.im ≠ 0) : z ∈ ρ T := by sorry 
```

And then just using `LinearMap.range_eq_top.mp (mem_resolventSet_iff.mp hz_res).2.1` in the proof of the lemma below.

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by adambornemann-glitch** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Approved - looks good.
